US08070830B2
Stage 1: Synthesis of 1,1′-(disulphanediyldiethane-2,1-diyl)bis(2-methylpyridinium)dibromide
A mixture of 56 g of 1-bromo-2-[(2-bromoethyl)-disulphanyl]ethane and 15 ml of N-methylpyrrolidone (NMP) is poured dropwise onto 35 g of 2-picoline with stirring, at 80° C. The mixture (white suspension) is kept stirring at 80° C. for 30 min, 100 ml of acetonitrile (ACN) are added, and the stirring is maintained at 80° C. for 90 min. After cooling, the solid obtained is filtered off, washed with 100 ml of ACN and then dried. 56.2 g of brown powder are recovered. 45 g of this powder are suspended in 300 ml of isopropanol (iPrOH), at reflux. Once the temperature has dropped to 40° C., the solid is filtered off, washed with 3 times 100 ml of iPrOH and dried under vacuum. 40.56 g of a light beige product are obtained. The analyses are in conformity with the expected structure.

reactant | 1-bromo-2-[(2-bromoethyl)-disulphanyl]ethane | 56 g | BrCCSSCCBr | C4H8Br2S2
reactant | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-picoline | 35 g | N1=C(C=CC=C1)C | C6H7N
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1,1′-(disulphanediyldiethane-2,1-diyl)bis(2-methylpyridinium)dibromide | 40.56 g | [Br-].[Br-].S(SCC[N+]1=C(C=CC=C1)C)CC[N+]1=C(C=CC=C1)C | InChI=1S/C16H22N2S2.2BrH/c1-15-7-3-5-9-17(15)11-13-19-20-14-12-18-10-6-4-8-16(18)2;;/h3-10H,11-14H2,1-2H3;2*1H/q+2;;/p-2
